* C:\Users\Luca\Desktop\SPICE\progetto_PSE_post_Fourier.asc
XU1 N004 N003 V1 Vcc Quadrata LT118A
C1 N003 0 1µ
R1 N004 0 22k
R2 Quadrata N004 100k
R3 Quadrata N003 200k
V1 V1 0 +5V
V2 Vcc 0 -5V
R4 N001 Quadrata 1k
XU2 N005 N001 V1 Vcc Triangolo LT118A
R5 Triangolo N001 10k
C2 Triangolo N001 38µ
R6 N005 0 100k
XU3 N006 N002 V1 Vcc Sinusoide LT118A
R7 Sinusoide N002 1k
C3 Sinusoide N002 9µ
R8 N006 0 100k
R9 N002 Triangolo 1k
.tran 0 5 0 0.1
.lib LTC.lib
.backanno
.end
